US05030736
Acetoxy-5,6-dihydro-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran
A solution of 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran (2.0 g, 7.48 mmol) and perchloric acid (70%, 10 drops) in acetic anhydride (20 mL) were stirred for 1 h at 0°-5° C. The solution was poured into ice water (100 mL). The product was extracted into dichloromethane, washed with water (4×), and evaporated in vacuo. The resultant oil was purified by flash chromatography, using 1% methanol in dichloromethane as the eluant, then crystallized from hexanes to give the product, 2.12 g (92%), as a colorless solid: mp 92°-93° C.; IR (KBr): 1745 and 1684 cm-1 ; MS: 310 (MH+); 1H NMR (CDCl3): δ1.37(s, 3H), 1.38(s, 3H), 1.98(m, 2H), 2.10(s, 3H), 2.37(m, 2H), 3.24(m, 1 H), 3.40(m, 1H), 5.15(d, J=9.1 Hz, 1H), 5.44(d, J=9.1 Hz, 1H), 6.58(d, J=5.4 Hz, 1H) and 7.13(d, J=5.4 Hz, 1H).

reactant | 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | 7.48 mmol, 2.0 g | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C13H17NO3S
reactant | KBr | [K+].[Br-]
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | perchloric acid | 10 drops | Cl(=O)(=O)(=O)O | ClHO4
product | Acetoxy-5,6-dihydro-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | C(C)(=O)OC1=CC=2OC(CC(C2S1)N1C(CCC1)=O)(C)C | C15H19NO4S
